US07595312B2
10.72a benzyl 4-(1-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-carboxylate
241 mg (0.75 mmol) TBTU, 0.62 mL (3.6 mmol) ethyldiisopropylamine and 215 mg (0.71 mmol) benzyl 4-piperidin-4-yl-piperazin-1-carboxylate were added to a solution of 390 mg (0.71 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid in 10 mL DMF and the reaction mixture was stirred overnight at RT. The reaction solution was poured into 80 mL 15% K2CO3 solution, stirred for 10 min at RT, the precipitated substance was suction filtered, washed with 5 mL water and dried in the air over the weekend.

reactant | TBTU | 0.75 mmol, 241 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 3.6 mmol, 0.62 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzyl 4-piperidin-4-yl-piperazin-1-carboxylate | 0.71 mmol, 215 mg | N1CCC(CC1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H25N3O2
reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 0.71 mmol, 390 mg | NC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O4
reactant | K2CO3 | 80 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | benzyl 4-(1-{(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-carboxylate | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C(=O)OCC2=CC=CC=C2)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C43H51ClF3N7O5
